US08536165B2
B. 5-Cyclopropyl-2-(6-hydroxy-5-phenylpyridin-3-ylamino)benzoic acid
A solution of methyl 2-(6-(benzyloxy)-5-phenylpyridin-3-ylamino)-5-cyclopropylbenzoate (0.34 mmol, 0.155 g) in TFA (1.3 ml) was stirred at 45° C. for 30 minutes. The solvent was removed under reduced pressure. The crude mixture was solved in ethanol (2 ml), 2N aqueous NaOH were added and stirred at room temperature for 16 hours. The solvent was removed and the crude was neutralised with 2N aqueous HCl and extracted with CHCl3. The crude mixture was purified by ionic exchange through a SCX cartridge affording 0.060 g (50% of yield).

reactant | methyl 2-(6-(benzyloxy)-5-phenylpyridin-3-ylamino)-5-cyclopropylbenzoate | 0.34 mmol, 0.155 g | C(C1=CC=CC=C1)OC1=C(C=C(C=N1)NC1=C(C(=O)OC)C=C(C=C1)C1CC1)C1=CC=CC=C1 | C29H26N2O3
solvent | TFA | 1.3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Cyclopropyl-2-(6-hydroxy-5-phenylpyridin-3-ylamino)benzoic acid | C1(CC1)C=1C=CC(=C(C(=O)O)C1)NC=1C=NC(=C(C1)C1=CC=CC=C1)O | C21H18N2O3
